US06809199B2
tert-butyl 4-oxopiperidine-1-carboxylate (37.9 mg, 0.19 mmol) was added to a mixture of 7-amino-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one (78 mg, 0.15 mmol) in 1 mL of 1,2-dichloroethane. NaBH(OAc)3 (58 mg, 0.27 mmol) was added after 45 min. The reaction mixture was stirred at rt overnight. The reaction mixture was quenched with ca 5 mL of 2.5M aqueous NaOH, extracted with (3×20 mL) of ethyl acetate, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The product was purified by preparative thin-layer chromatography, eluting with 90:10 hexanes-ethyl acetate to yield tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]amino}piperidine-1-carboxylate. Mass spectrum (ESI) 721.2 (M+1).

reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 0.19 mmol, 37.9 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 7-amino-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | 0.15 mmol, 78 mg | NC1=CC(=C2CN(C(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC)C1=C(C=CC=C1)Cl | C28H22Cl3N3O2
reactant | NaBH(OAc)3 | 0.27 mmol, 58 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
product | tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]amino}piperidine-1-carboxylate | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C38H39Cl3N4O4
